US08703978B2
Methyl 2-(4-diethylaminophenyl)-2-phenyl-6-trifluoromethanesulfonyloxy-2H-naphtho[1,2-b]pyran-5-carboxylate
Pyridine (0.17 mL, 2.1 mmol) was added to methyl 2-(4-diethylaminophenyl)-6-hydroxy-2-phenyl-2H-naphtho[1,2-b]pyran-5-carboxylate (1.00 g, 2.1 mmol) in DCM under N2 at 0° C. Trifluoromethanesulfonic anhydride was added dropwise to the mixture and the solution was warmed to room temperature and stirred for 1 h. HCl (100 mL, 2 M) was added, the aqueous phase separated, extracted with DCM (3×50 mL). The combined organic phases were washed with water (100 mL), dried (MgSO4) and the solvent removed under reduced pressure. The residue was filtered through a short plug of silica using DCM as eluent and the solvent was removed to give the product as a blue powder (0.91 g, 72%)

reactant | Pyridine | 2.1 mmol, 0.17 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl 2-(4-diethylaminophenyl)-6-hydroxy-2-phenyl-2H-naphtho[1,2-b]pyran-5-carboxylate | 2.1 mmol, 1.00 g | C(C)N(C1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OC)O)C2=CC=CC=C2)CC | C31H29NO4
reactant | Trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 2 M, 100 mL | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-diethylaminophenyl)-2-phenyl-6-trifluoromethanesulfonyloxy-2H-naphtho[1,2-b]pyran-5-carboxylate | 0.91 g, 72% | C(C)N(C1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OC)OS(=O)(=O)C(F)(F)F)C2=CC=CC=C2)CC | C32H28F3NO6S
